US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(3-hydroxyphenyl)propyl]imidazole was allowed to react with 5-chloromethyl-2-(2-thienyl)benzoxazole to give 5-[3-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-thienyl)benzoxazole. The yield was 76%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 86-87° C.

reactant | 1-[3-(3-hydroxyphenyl)propyl]imidazole | OC=1C=C(C=CC1)CCCN1C=NC=C1 | C12H14N2O
reactant | 5-chloromethyl-2-(2-thienyl)benzoxazole | ClCC=1C=CC2=C(N=C(O2)C=2SC=CC2)C1 | C12H8ClNOS
product | 5-[3-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-thienyl)benzoxazole | yield was 76% | N1(C=NC=C1)CCCC=1C=C(OCC=2C=CC3=C(N=C(O3)C=3SC=CC3)C2)C=CC1 | C24H21N3O2S
